US04620007
3.44 g of 80 percent sodium hydride were added in portions to a solution of 31.9 g of ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate (R1 =C2H5) in 100 ml of anhydrous dioxane while cooling with ice and stirring. The mixture was then stirred at room temperature for 30 minutes and under reflux for 2 hours, and the dioxane was stripped off in vacuo. The residue (40.3 g) was suspended in 150 ml of water, 6.65 g of caustic potash were added, and the mixture was refluxed for 1.5 hours. The warm solution was filtered and the residue was rinsed with H2O. The filtrate was then acidified to pH=1 to 2 with semiconcentrated hydrochloric acid, while cooling with ice, and the precipitate was filtered off under suction, washed with water and dried in vacuo at 100° C. 27.7 g of 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (R1 =H) of melting point 234° to 237° C. were obtained in this manner.

reactant | sodium hydride | 3.44 g | [H-].[Na+]
reactant | ethyl 2-(2,4-dichloro-5-fluoro-benzoyl)-3-cyclopropylamino-acrylate | 31.9 g | ClC1=C(C(=O)C(C(=O)OCC)=CNC2CC2)C=C(C(=C1)Cl)F | C15H14Cl2FNO3
reactant | caustic potash | 6.65 g | [OH-].[K+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 150 ml | O | H2O
product | 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 27.7 g | ClC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | C13H9ClFNO3
